US07615562B2
Step B: 4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-benzenesulfonamide
The title compound was prepared from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide according to Method C (Example 178). Yield: 443 mg (86%).

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)N)C | C12H18BNO4S
product | 4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-benzenesulfonamide | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)N)(C)C)C | C19H27N5O2S
